US07049342B2
Under an argon atmosphere, stirring and cooling with ice, a solution of triethyl 2-phosphonobutyrate (5.00 g, 19.8 mmol) in anhydrous tetrahydrofuran (30 mL) was added dropwise slowly to a solution of sodium hydride (60% oil dispersion, 795 mg, 19.9 mmol) in anhydrous tetrahydrofuran (120 mL). After stirring for 1 hour at 0° C., a solution of 4-methoxy-3-nitrobenzaldehyde (3.26 g, 18.0 mmol) in anhydrous tetrahydrofuran (50 mL) was added dropwise, and the mixture was stirred for 1 hour at 0° C. and for 3 hours at room temperature. The reaction mixture was concentrated and ice water was added to the residue, which was extracted with ethyl acetate. The extracte was washed with water, brine and dried over anhydrous sodium sulfate, and then concentrated. The residue was purified by silica gel column chromatography (eluent n-hexane:ethyl acetate=8:1→2:1 v/v) to obtain 4.69 g (93%) of ethyl 2-ethyl-3-(4-methoxy-3-nitrophenyl)acrylate as colorless crystals.

reactant | triethyl 2-phosphonobutyrate | 19.8 mmol, 5.00 g | CCC(C(=O)OCC)P(=O)(OCC)OCC | C10H21O5P
reactant | sodium hydride | 19.9 mmol, 795 mg | [H-].[Na+]
reactant | 4-methoxy-3-nitrobenzaldehyde | 18.0 mmol, 3.26 g | COC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | ethyl 2-ethyl-3-(4-methoxy-3-nitrophenyl)acrylate | 4.69 g, 93% | C(C)C(C(=O)OCC)=CC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C14H17NO5
